US04778629
94 parts by weight of phenol are dissolved in 166 parts by weight of isononanoic acid. 107 parts by weight of 96% sulfuric acid are then added to this solution and the mixture is heated for 30 minutes to 100° to 110° C. The water of reaction is then largely distilled off under reduced pressure (20 mm) within 30 minutes. After cooling, 134 parts by weight of thionylchloride are added dropwise at 45° to 50° C., with addition of an antifoam. The mixture is stirred for one further hour. This gives a stable isononanoyloxybenzenesulfonic acid havingan AS content of 81%, and the Na salt as the end product, which is obtained in virtually quantitative yield (relatative to phenol), has an AS content of 85%.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | isononanoic acid | C(CCCCCC(C)C)(=O)O | C9H18O2
product | isononanoyloxybenzenesulfonic acid | C(CCCCCC(C)C)(=O)OC1=C(C=CC=C1)S(=O)(=O)O | C15H22O5S
